US05210247
About 20.0 g (95 mMol) of 4-(3-butenyl)-1-bromobenzene [which can be prepared, for example, by the method of P. E. Peterson et al, J. Org. Chem. 33, 972 (1968)] were dissolved in 40 ml of toluene, 2 ml of a platinum catalyst solution (0.5 percent solution of cyclopentadiene-platinum dichloride in dichloromethane) were added, and the mixture was added dropwise to a stirred solution containing 16 g (0.18 Mol) of commercially available dimethylethylsilane in 20 ml of toluene. The mixture was stirred at 50° to 70° C. for 3 hours and then cooled, and the solvent was removed by distillation. The residue was fractionated under reduced pressure. Approximately 19.4 g of 4-[4-(dimethylethylsilyl)butyl]-1-bromobenzene (67.9 percent yield) were obtained at a pressure of 0.05 hPa and at a temperature of 110° to 112° C. A mixture containing 18 g (0.06 Mol) of this derivative, 6.3 g (0.07 Mol) of CuCN and 10 ml of dimethylformamide was heated at 160° C. for 8 hours. The mixture, still hot at 80° C., was poured into a mixture containing 30 g of iron(III) chloride, 7.5 ml of concentrated hydrochloric acid and 90 ml of water, and the full mixture was stirred at 70° C. for 75 minutes. The product was then extracted with tert-butyl methyl ether, the extract was washed, dried and evaporated, and the residue was fractionated. About 9.9 g of 4-[4-(dimethylethylsilyl)butyl]benzonitrile were obtained at 0.02 hPa and at 114° to 116° C. (66.6 percent yield).

reactant | 4-(3-butenyl)-1-bromobenzene | 95 mMol, 20.0 g | C(CC=C)C1=CC=C(C=C1)Br | C10H11Br
reactant | dimethylethylsilane | C[SiH](CC)C | C4H12Si
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum | 2 ml | [Pt] | Pt
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cyclopentadiene platinum dichloride | C1=CC=CC1.[Pt](Cl)Cl
product | 4-[4-(dimethylethylsilyl)butyl]-1-bromobenzene | 19.4 g, 67.9 percent yield | C[Si](CCCCC1=CC=C(C=C1)Br)(CC)C | C14H23BrSi
